US08461372B2
To a solution of 2-Chloro-N-[6-(2-chloro-acetylamino)-hexyl]-acetamide (200 gm) and triethyl amine (400 ml) in Acetone (2000 ml) at room temperature was added dropwise Benzyloxy acetic acid (350 g). The solution was further stirred at reflux temperature overnight. The reaction mixture was poured onto cold water and solids were filtered, dried and the crude product was purified by recrystallisation from Ethyl acetate to yield pure (Benzyloxy-acetic acid-{6-[2-(2-benzyloxy-acetoxy)-acetylamino]-hexylcarbamoyl}-methyl ester) (190 g) as white powder with a melting point of 101-103° C. The product was characterized by IH NMR (CDCl3+DMSO-d3) δ 1.24 (m, 2H, CH2), 1.43 (m, 2H, CH2), 3.15 (t, 2H, CH2), 4.15 (s, 2H, CH2), 4.48 (s, 2H, CH2), 4.56 (s, 2H, CH2), 7.30 (m, 5H, Ar), 7.46 (t, 1H, NH).

reactant | 2-Chloro-N-[6-(2-chloro-acetylamino)-hexyl]-acetamide | 200 gm | ClCC(=O)NCCCCCCNC(CCl)=O | C10H18Cl2N2O2
reactant | triethyl amine | 400 ml | C(C)N(CC)CC | C6H15N
reactant | Benzyloxy acetic acid | 350 g | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
reactant | water | O | H2O
solvent | Acetone | 2000 ml | CC(=O)C | C3H6O
product | Benzyloxy-acetic acid-{6-[2-(2-benzyloxy-acetoxy)-acetylamino]-hexylcarbamoyl}-methyl ester | C(C1=CC=CC=C1)OCC(=O)OCC(=O)NCCCCCCNC(=O)COC(COCC1=CC=CC=C1)=O | C28H36N2O8
